US04163844
By following the same procedure as in Example 13 using 0.32 g. of 2-carboxymethyl-4-chlorobenzic acid, 0.37 g. of 3-aminopropanethiol hydrobromide, 0.172 g. of sodium acetate and 0.3 g. of p-toluenesulfonic acid, 0.15 g. of 9-chloro-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline was obtained.

reactant | 2-carboxymethyl-4-chlorobenzic acid | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)Cl | C9H7ClO4
reactant | 3-aminopropanethiol hydrobromide | Br.NCCCS
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 9-chloro-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | ClC1=CC=2C=C3N(C(C2C=C1)=O)CCCS3 | C12H10ClNOS
